US07056916B2
8-{2-[2-(4-bromophenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}-6-hydroxy-4H-benzo[1,4]oxazin-3-one
The preparation of the ethanolamine and debenzylation were carried out as described in Example 19 from 300 mg (0.91 mmol) of 6-benzyloxy-8-(2,2-dihydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one and 250 mg (1.09 mmol) of 2-(4-bromophenyl)-1,1-dimethylethylamine. Beige solid. Yield: 54 mg (14%); mass spectrometry: [M+H]+=435, 437.

reactant | ethanolamine | C(O)CN | C2H7NO
reactant | 6-benzyloxy-8-(2,2-dihydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one | 0.91 mmol, 300 mg | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(C(O)O)=O | C17H15NO6
reactant | 2-(4-bromophenyl)-1,1-dimethylethylamine | 1.09 mmol, 250 mg | BrC1=CC=C(C=C1)CC(C)(C)N | C10H14BrN
product | 8-{2-[2-(4-bromophenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}-6-hydroxy-4H-benzo[1,4]oxazin-3-one | BrC1=CC=C(C=C1)CC(C)(C)NCC(O)C1=CC(=CC=2NC(COC21)=O)O | C20H23BrN2O4
